Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vioxx
 
Attending: ___.
 
Chief Complaint:
shortnes of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o. with AS, situs inversus (dextra cardia), CHF, 
bronchiectasis and mild dementia p/w increased SOB. He presented 
to ___'s office today where his wife noted 4 days of worsening 
SOB, poor appetite. Pt himself also endorses not feeling well 
and increased fatigue and SOB. He has not had any cough, chest 
pain, nightsweats, or fever. EKG in PCP's office noted STD V4-6 
and he was transferred to ED. CXR in clinic revealed increased 
pulm vascular engorgement.  
In ED, initial vitals were: 97.9, 114/68, 80, 18, 98%4LNC. EKG 
in ED also revealed STD in V4-6. Trop 0.03, but CK flat. While 
waiting in ED, Pt's had BP drop to 85/49, asymptomatic. He 
received 1L NS and BP returned to 113-140's. Rectal temp 99.7, 
BNP is up, sats normal. guaiac neg.  

On the floor, he reports feeling slightly more SOB upon arrival 
tot he floor. He denies any CP, but does endorse some occasional 
palpitations. He denies fever, chills, night sweats, recent 
weight loss or gain. Denies headache, sinus tenderness, 
rhinorrhea or congestion. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. He 
recently was told to stop atenolol 1 month ago due to 
hypotension. Also, he reports some increased difficulty with 
urination over past few weeks, but no dysuria/hematuria.  

 
Past Medical History:
Situs invertus  
Aortic stenosis
dCHF  
Restrictive lung disease  
Hypothyroidism  
GERD  
BPH  
Dementia  

 
Social History:
___
Family History:
Colon cancer
 
Physical Exam:
Vitals: T: 96.1 BP: 114/69 P: 74 R: 20 18 O2: 90%2L NC  
General: Alert, oriented, but speaking in short sentences  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP at jaw, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, ___ systolic mumur best at LUSB  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
___ 01:40PM   GLUCOSE-111* UREA N-27* CREAT-1.3* SODIUM-139 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-30 ANION GAP-11
___ 01:40PM   cTropnT-0.03*
___ 01:40PM   CK-MB-7 proBNP-1356*
___ 12:56AM BLOOD CK-MB-6 cTropnT-0.04*
___ 06:55AM BLOOD CK-MB-5 cTropnT-0.02*
___ 12:56AM BLOOD CK(CPK)-169
___ 06:55AM BLOOD CK(CPK)-140
___ 01:40PM BLOOD CK-MB-7 proBNP-1356*
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with bronchiectasis, 
restrictive lung disease, and aortic stenosis, and diastolic 
dysfunction who was admitted for dyspnea on exertion. He ruled 
out for MI, had a normal TSH, and had no signs or symptoms of 
infection. Originally, Mr. ___ presentation was concerning 
for worsening AS as the primary cause of his SOB. A CXR on 
admission showed evidence of pulmonary vascular engorgement and 
he appeared volume overloaded in the ED. Despite this, he was 
given both IV fluids and IV Lasix there, likely exacerbating his 
shortness of breath. After admission, both IVF's and Lasix were 
held.

As an inpatient, an ECHO revealed unchanged moderate AS and no 
evidence of worsening CHF. The patient's volumed status was 
difficult to treat as he is very preload dependent, but yet 
prone to CHF, so he was placed on fluid restrictions and 
Spironolactone in lieu of Lasix. His Creatinine function 
subsequently improved to 1.0 from 1.3 on admission. His dyspnea 
is also likely to be due to his kyphosis and left hemidiaphragm 
elevation causing a restrictive ventilatory defect as well as 
his underlying bronchiectasis, diastolic congestive heart 
failure, and aortic stenosis. His SOB continued both at rest and 
with activity during his stay. His O2Sat's ranged from 87-95% on 
RA at rest. With activity, O2Sat dropped to 78% on RA. As his 
dyspnea could not be fully corrected and his causative symptoms 
are likely to progress, the primary team (with input from his 
primary care physician and pulmonologist) recommended continuous 
O2 therapy. Physical therapy also evaluated him and recommended 
a rehabilitation facility to assist Mr. ___ with his walking 
and pulmonary rehab. 

Throughout his hospitalization, his family was focused on 
getting Mr. ___ home and back to a familiar environment given 
his early stage Alzheimer's disease. Consequently, they became 
concerned about sending him to a rehab facility. After the team, 
together with palliative care, discussed the family's goals and 
the patient's own wishes, the family agreed to his placement in 
a facility near his home.
   
Throughout his hospitalization, Mr. ___ was maintained on his 
home regimen for hypothyroidism and BPH.

Prior to discharge and after family meeting patient was 
confirmed DNR/DNI.
 
Medications on Admission:
Aricept 10 mg daily  
flomax 0.4 mg daily  
Centrum daily  
ASA 81 daily  
Lasix 20mg PO daily  
Finasteride 5 daily  
synthroid 50 mcg daily  
atrovent 2 puffs QID PRN  
erythromycin eye drops  

 
Discharge Medications:
1. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
Puff Inhalation QID (4 times a day).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Spironolactone 25 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*15 Tablet(s)* Refills:*2*
9. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day: Do not 
take if systolic blood pressure is less than 100.  
10. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
11. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.
Disp:*1 inhaler* Refills:*3*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic diastolic congestive heart failure
Moderate aortic stenosis

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital for shortness of breath. While 
you were here, you had a chest x-ray performed that showed some 
fluid in your lungs. You were given some medications to help 
remove this extra fluid. You also had an echocardiogram that 
showed that your heart function had not changed significantly 
from one year ago and was not the cause of the extra fluid in 
your lungs. You were given some inhaled medications to help your 
breathing and your were evaluated by physical therapy who 
recommended that you receive some ongoing physical therapy at 
home to aid with mobility.

If you experience another episode of shortness of breath, 
dizziness, lightheadedness, fever, chills, or feel like you 
might pass out, please call your primary care physician or go to 
the emergency room.

Medications:
A medication called Spironolactone was started while you were in 
the hospital. This medication will help you to remove excess 
fluid from your body. Please continue to take this medication at 
home as directed.  You were also started on a small dose of 
metoprolol which is a medicine for your heart.  You were started 
at a dose that is half as strong as the atenolol that you were 
previously taking.  

Physical Therapy:
In the hospital, a physical therapist evaluated your ability to 
ambulate. Their recommendation is that you use a walker to aid 
with your mobility. They would also like you to continue to work 
with a physical therapist at home so that they can assist you in 
returning to your previous level of activity. 
 
Followup Instructions:
___